US06759554B2
N-Benzyl-N′-(2-methoxyphenyl)urea
A test tube was charged with CuI (20 mg, 0.10 mmol, 0.10 equiv), K3PO4 (425 mg, 2.0 mmol, 2.0 equiv), benzylurea (225 mg, 1.5 mmol, 1.5 equiv), 2-bromoanisole (125 μL, 1.0 mmol, 1.0 equiv), N,N′-dimethylethylendiamine (22 μL, 0.20 mmol, 0.20 equiv) and dry dioxane (1.0 mL), filled with nitrogen. The test tube was sealed and the reaction mixture was stirred at 80° C. for 26 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel, eluting with ethyl acetate. The filtrate was concentrated in vacuo. The solid residue was dissolved in ˜2 mL DMF. Purification of the residue by flash chromatography on silica gel (2×20 cm; hexane:ethyl acetate 2:1) provided 172 mg (67% yield) of the title compound as a white solid.

reactant | K3PO4 | 2.0 mmol, 425 mg, 2.0 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylurea | 1.5 mmol, 225 mg, 1.5 equiv | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | 2-bromoanisole | 1.0 mmol, 125 μL, 1.0 equiv | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | N,N′-dimethylethylendiamine | 0.20 mmol, 22 μL, 0.20 equiv | CNCCNC | C4H12N2
catalyst | CuI | 0.10 mmol, 20 mg, 0.10 equiv | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-Benzyl-N′-(2-methoxyphenyl)urea | 172 mg, 67% yield | C(C1=CC=CC=C1)NC(=O)NC1=C(C=CC=C1)OC | C15H16N2O2
